US06884868B1
A mixture of 1-(4-nitrophenyl)-4-(4-chlorophenyl)-4-methoxypiperidine (8.9 g), iron powder (10.7 g) and ammonium chloride (1.07 g) in ethanol (445 ml) and water (44.5 ml) was stirred at reflux for 5.5 hours. The insoluble material was filtered off, and the filtrate was evaporated under reduced pressure. To the residue was added a mixture of ethyl acetate (150 ml), water (100 ml) and saturated sodium hydrogen carbonate (50 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. To the residue was added a mixture of diisopropyl ether (10 ml) and n-hexane (20 ml). The precipitate was collected by filtration, and dried under reduced pressure to give 1-(4-aminophenyl)-4-(4-chlorophenyl)-4-methoxypiperidine (7.3 g).

reactant | 1-(4-nitrophenyl)-4-(4-chlorophenyl)-4-methoxypiperidine | 8.9 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)(OC)C1=CC=C(C=C1)Cl | C18H19ClN2O3
reactant | ammonium chloride | 1.07 g | [Cl-].[NH4+]
solvent | ethanol | 445 ml | C(C)O | C2H6O
solvent | water | 44.5 ml | O | H2O
catalyst | iron | 10.7 g | [Fe] | Fe
product | 1-(4-aminophenyl)-4-(4-chlorophenyl)-4-methoxypiperidine | 7.3 g | NC1=CC=C(C=C1)N1CCC(CC1)(OC)C1=CC=C(C=C1)Cl | C18H21ClN2O
